US07109238B2
a) 5-(2-Methyl-propenyl)-indan
In a flamed dried flask under argon isopropyltriphenylphosphonium iodide (6.48 g, 15 mmol) in 30 mL of dry THF was cooled to 0° C. Then n-BuLi (2.5 M) in hexanes (6.0 mL) was added via syringe. The reaction mixture was stirred 0° C. for 45 min. Then a solution of the 2,3-dihydro-1H-indene-5-carboxaldehyde (J. Med. Chem. 1993, 36, 3700–3706) was added (1.7, 12.0 mmol) in THF (20 mL) was added drop-wise and the reaction was stirred under Argon at RT overnight. The reaction was filtered, the filtrate was concentrated in vacuo and the residue purified by flash colum chromatography (ethyl acetate/hexane, 1:99) to yield the above titled compound as a pale yellow oil (1.7 g, 67%).

reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | 2,3-dihydro-1H-indene-5-carboxaldehyde | C1CCC2=CC(=CC=C12)C=O | C10H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-(2-Methyl-propenyl)-indan | 1.7 g, 67% | CC(=CC=1C=C2CCCC2=CC1)C | C13H16
